US04720500
The procedure is analogous to that described in Example 11, but starting with 3-bromobenzoic acid (2.2 g), N,N'-carbonyldiimidazole (1.8 g) and 2-amino-7-(3-bromophenyl)-1,8-naphthyridine (2.4 g). The product obtained by precipitation in water (3.1 g; m.p. approximately 140° C.) is dissolved in boiling propanol (100 cc). After cooling for 3 hours at 4° C., the crystallized solid is separated by filtration, washed with propanol (2×10 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-[7-(3-Bromophenyl)-1,8-naphthyridin-2-yl]-3-bromobenzamide (2.2 g), m.p. 144°-146° C., is obtained.

reactant | 3-bromobenzoic acid | 2.2 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | 2-amino-7-(3-bromophenyl)-1,8-naphthyridine | 2.4 g | NC1=NC2=NC(=CC=C2C=C1)C1=CC(=CC=C1)Br | C14H10BrN3
reactant | propanol | 100 cc | C(CC)O | C3H8O
solvent | water | 3.1 g | O | H2O
product | N-[7-(3-Bromophenyl)-1,8-naphthyridin-2-yl]-3-bromobenzamide | 2.2 g | BrC=1C=C(C=CC1)C1=CC=C2C=CC(=NC2=N1)NC(C1=CC(=CC=C1)Br)=O | C21H13Br2N3O
